US06509328B1
{3-[3-(5-Cyano-thiophen-2-yl)-3-oxo-propionylamino]-2′-fluoro-biphenyl-4-yl}-carbamic Acid tert.-Butyl Ester
Prepared from (3-amino-2′-fluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example G37) (302 mg, 1.0 mmol) and 3-(5-cyano-thiophen-2-yl)-3-oxo-propionic acid tert.-butyl ester (Example H17) (276 mg, 1.1 mmol) according to the general procedure K. Obtained as a yellow solid (451 mg).

reactant | (3-amino-2′-fluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester | 1.0 mmol, 302 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)N)=O | C17H19FN2O2
reactant | 3-(5-cyano-thiophen-2-yl)-3-oxo-propionic acid tert.-butyl ester | 1.1 mmol, 276 mg | C(C)(C)(C)OC(CC(=O)C=1SC(=CC1)C#N)=O | C12H13NO3S
product | {3-[3-(5-Cyano-thiophen-2-yl)-3-oxo-propionylamino]-2′-fluoro-biphenyl-4-yl}-carbamic Acid tert.-Butyl Ester | 451 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)NC(CC(=O)C=1SC(=CC1)C#N)=O)=O | C25H22FN3O4S
